US05545647
Preparation of 3-(3-cyclopentyloxy-4-methoxyphenyl)-1-(3-pyridylmethylaminocarbonyl) pyrrolidine (Compound No. 22 in Table 1):
216 mg of 3-(aminomethyl) pyridine and 202 mg of triethylamine were dissolved in 5 ml of tetrahydrofuran. During agitation at a cold temperature, a solution obtained by dissolving 545 mg of 1-chloroformyl-3-(3-cyclopentyloxy-4-methoxyphenyl) pyrrolidine in 3 ml of tetrahydrofuran was added in drops. After dropping, agitation was continued for 6 hours at a room temperature. Thereafter, the agitated solution was poured into ice water and then extracted with ethyl acetate. After organic layers were cleaned by water and dried over magnesium sulfate, it was concentrated under a reduced pressure. The residue was purified by means of the silica gel column chromatography to obtain 432 mg of Compound No. 22 in Table 1.

reactant | 3-(aminomethyl) pyridine | 216 mg | NCC=1C=NC=CC1 | C6H8N2
reactant | triethylamine | 202 mg | C(C)N(CC)CC | C6H15N
reactant | 1-chloroformyl-3-(3-cyclopentyloxy-4-methoxyphenyl) pyrrolidine | 545 mg | ClC(=O)N1CC(CC1)C1=CC(=C(C=C1)OC)OC1CCCC1 | C17H22ClNO3
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 3-(3-cyclopentyloxy-4-methoxyphenyl)-1-(3-pyridylmethylaminocarbonyl) pyrrolidine | 432 mg | C1(CCCC1)OC=1C=C(C=CC1OC)C1CN(CC1)C(=O)NCC=1C=NC=CC1 | C23H29N3O3
